US07557103B2
A. 3-Bromo-5-chloro-thieno[3,2-b]pyridine
1.00 g of 5-Chloro-thieno[3,2-b]pyridine (5.91 mmol), 497 mg of sodium bicarbonate (5.91 mmol), 1.54 g of potassium hydrogenphosphate (8.87 mmol) and 1.07 g of magnesium sulfate (8.87 mmol) are placed in a flask with 50 ml of chloroform. The reaction mixture is stirred under reflux for 30 min. 0.55 ml of Bromine (10.82 mmol) is added and stirred under reflux overnight. 0.55 ml of Additional bromine (10.82 mmol) is added and stirred under reflux for 1 day. The reaction mixture is cooled to room temperature and water and CH2Cl2 are added. Organic layer is separated. The water layer is adjusted to pH=14 with 5N NaOH and extracted with CH2Cl2. All organic layers are combined together and dried over Na2SO4 and evaporated. The crude product is applied onto a silica-gel chromatography column (Hexane:AcOEt=5:1) to give 796 mg of the title compound (54%). 1H-NMR (CDCl3): 8.12 (d, 1H, J=7.9 Hz), 7.81 (s, 1H), 7.36 (d, 1H, J=7.9 Hz) ppm.

reactant | 5-Chloro-thieno[3,2-b]pyridine | 5.91 mmol, 1.00 g | ClC1=CC=C2C(=N1)C=CS2 | C7H4ClNS
reactant | sodium bicarbonate | 5.91 mmol, 497 mg | C([O-])(O)=O.[Na+]
reactant | potassium hydrogenphosphate | 8.87 mmol, 1.54 g | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | magnesium sulfate | 8.87 mmol, 1.07 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | Bromine | 10.82 mmol, 0.55 ml | BrBr | Br2
reactant | bromine | 10.82 mmol, 0.55 ml | BrBr | Br2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-5-chloro-thieno[3,2-b]pyridine | 796 mg, 54% | BrC1=CSC=2C1=NC(=CC2)Cl | C7H3BrClNS
